US05340504
4-Nitro-o-sulfanilic acid is diazotized and coupled neutrally to I acid. 43 mmol of this dye are dissolved in 200 ml water and indirectly diazotized. After stirring for 1 hour, the excess nitrous acid is removed with amidosulfonic acid and a solution of 43 mmol 4-hydroxy- 7-aminonaphthalene-2,8-disulfonic acid in 200 ml water is added. Coupling is completed overnight at pH 8-9, the dye is filtered under suction and the sulfo groups are split off by boiling for 12 h in a 1:1 mixture of water and N-methyl pyrrolidone containing 60 ml concentrated hydrochloric acid. This dye is diazotized and added dropwise to a solution in 100 ml water of 7.2 mmol of a dye obtained by acidic coupling of p-sulfanilic acid onto 4-amino-5-hydroxynaphthalene sulfonic acid. After stirring overnight, the dye is precipitated by addition of acetone, optionally dissolved and allowed to crystallize once more and then washed with aqueous acetone. 0.1 g dye are dissolved in 9.9 g Mowiol® 28-99 (a product of Hoechst AG) and 190 ml water and a 500μ thick layer is cast from this solution. After evaporation of the water, an approx. 50μ thick dark-blue film is obtained. The film is stretched by 500% at 130° C. The dichroic ratio (CR) is 15.3 at 650 nm.

reactant | 4-Nitro-o-sulfanilic acid | [N+](=O)([O-])C=1C=C(C(S(=O)(=O)O)=CC1)N | C6H6N2O5S
reactant | 4-hydroxy- 7-aminonaphthalene-2,8-disulfonic acid | 43 mmol | OC1=CC(=CC2=C(C(=CC=C12)N)S(=O)(=O)O)S(=O)(=O)O | C10H9NO7S2
solvent | water | 200 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | p-sulfanilic acid | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
